US05001105
Preparation of 1,1-bis(1-ethyl-2-methylindole-3-yl)ethylene [Table 3, Entry 1]
A mixture of 1-ethyl-2-methylindole (15.9 g, 0.1 mole) and acetyl chloride (9.4 g, 0.12 mole) was stirred at room temperature for 20 hours. Then, water (100 ml) was added to the reaction mixture and the resulting grains were filtered and dried. The dried product was recrystallized from toluene/methanol. Yield: 13.0 g (77.0%). M.P.: 183°-185° C. IR (KBr) spectrum was identical to that of the product in Example 1.

reactant | 1-ethyl-2-methylindole | 0.1 mole, 15.9 g | C(C)N1C(=CC2=CC=CC=C12)C | C11H13N
reactant | acetyl chloride | 0.12 mole, 9.4 g | C(C)(=O)Cl | C2H3ClO
solvent | water | 100 ml | O | H2O
product | 1,1-bis(1-ethyl-2-methylindole-3-yl)ethylene | C(C)N1C(=C(C2=CC=CC=C12)C(=C)C1=C(N(C2=CC=CC=C12)CC)C)C | C24H26N2
